US05593984
Preparation of 4-ethylpyrrolo[1,2-a]pyrazine
1.0 g of pyrrolo[1,2-a]pyrazine prepared in Preparation Example 1 was dissolved in 10 ml of tetrahydrofuran and then cooled to -78° C. under nitrogen atmosphere. To this solution was added 1.2 equivalents of LDA solution; the resulting mixture was stirred for 30 minutes; and 1 ml of iodoethane was added to the mixture while maintaining the temperature of -78° C. The reaction mixture was stirred for 30 minutes, warmed to room temperature and then poured into water. The organic layer was isolated and then concentrated to dryness to obtain 0.3 g of title compound.

reactant | pyrrolo[1,2-a]pyrazine | 1.0 g | C=1C=2N(C=CN1)C=CC2 | C7H6N2
reactant | LDA | 1.2 equivalents | [Li+].CC(C)[N-]C(C)C
reactant | iodoethane | 1 ml | ICC | C2H5I
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-ethylpyrrolo[1,2-a]pyrazine | 0.3 g | C(C)C1=CN=CC=2N1C=CC2 | C9H10N2
